US05753664
1,3-Dimethyl-7-[4-[4-(2-morpholinoethoxy)benzoyl]-benzyl]xanthine
A solution of 7-[4-(4-hydroxybenzoyl)benzyl)-1,3-dimethylxanthine (170 mg), potassium carbonate (200 mg) and 1-chloro-2-morpholinoethane hydrochloride (87 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform: ethyl acetate: acetone =1:1:1) to provide the title compound (93 mg).

reactant | 7-[4-(4-hydroxybenzoyl)benzyl)-1,3-dimethylxanthine | 170 mg | OC1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C21H18N4O4
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-2-morpholinoethane hydrochloride | 87 mg | Cl.ClCCN1CCOCC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,3-Dimethyl-7-[4-[4-(2-morpholinoethoxy)benzoyl]-benzyl]xanthine | 93 mg | CN1C(=O)N(C=2N=CN(C2C1=O)CC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN1CCOCC1)=O)C | C27H29N5O5
